US04459422
Preparation of (E)-6-[2-(2'-methoxy-[1,1'-biphenyl]-2-yl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one.
2-Methoxyphenylmagnesium bromide, prepared from 2-bromoanisole (22.4 g, 120 mmol) and magnesium (2.9 g, 120 mmol), in dry THF (75 ml) was added dropwise to a stirred solution of 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline (20.4 g, 100 mmol) in dry THF (150 ml) under N2 at 20° C. Stirring of the solution was continued for 20 hours and then the reaction mixture was quenched by the addition of saturated ammonium chloride solution. The resulting mixture was extracted with ether (2×500 ml), dried over MgSO4, filtered and evaporated. The residue was chromatographed on silica gel (ethyl acetate-hexane) to provide title compound as colorless crystals (25.3 g, 90%), mp 129°-131° C.

reactant | 2-Methoxyphenylmagnesium bromide | COC1=C(C=CC=C1)[Mg]Br
reactant | 2-bromoanisole | 120 mmol, 22.4 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | 120 mmol, 2.9 g | [Mg] | Mg
reactant | 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline | 100 mmol, 20.4 g | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | THF | 75 ml | C1CCOC1 | C4H8O
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | (E)-6-[2-(2'-methoxy-[1,1'-biphenyl]-2-yl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | 25.3 g, 90% | COC1=C(C=CC=C1)C1=C(C=CC=C1)/C=C/C1CC(CC(O1)=O)O | C20H20O4
